US05910504
3-Fluoro-1-(phenylmethoxycarbonylamino)-4-(2H-1,2,3-triazol-2-yl)benzene
A solution of 6.0 g (28.82 mmol) of 3-fluoro-1-nitro-4-(2H-1,2,3-triazol-2-yl)benzene in 150 mL ethyl acetate and 25 mL methanol was treated with 750 mg of W-2 Raney Nickel. The mixture was hydrogenated on a Paar shaker under 45 psi hydrogen pressure for 24 h. The mixture was filtered through celite and the filtrate was concentrated in vacuo. The residue was dissolved in 150 mL acetone, treated with 72 mL saturated sodium bicarbonate solution, followed by cooling to 0° C. The mixture was treated with 6.15 g (5.14 mL, 36.08 mmol) of benzyl chloroformate, followed by stirring at 0° C. for 1 h, and then warming to ambient temperature for 3 h. The mixture was diluted with 500 mL water and 400 mL ethyl acetate. The aqueous phase was washed with 250 mL ethyl acetate and the combined organic layers were extracted with 300 mL saturated NaCl solution. Drying (Na2SO4) and concentration in vacuo afforded an amber oil which was recrystallized from hot chlorform-hexane to afford 7.52 g (84%) of the title compound as a white solid, mp 99.5-101° C.

reactant | 3-fluoro-1-nitro-4-(2H-1,2,3-triazol-2-yl)benzene | 28.82 mmol, 6.0 g | FC=1C=C(C=CC1N1N=CC=N1)[N+](=O)[O-] | C8H5FN4O2
reactant | hydrogen | [H][H] | H2
reactant | benzyl chloroformate | 36.08 mmol, 5.14 mL, 6.15 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 25 mL | CO | CH4O
catalyst | Raney Nickel | 750 mg | [Ni] | Ni
solvent | water | 500 mL | O | H2O
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
product | 3-Fluoro-1-(phenylmethoxycarbonylamino)-4-(2H-1,2,3-triazol-2-yl)benzene | 7.52 g, 84% | FC=1C=C(C=CC1N1N=CC=N1)NC(=O)OCC1=CC=CC=C1 | C16H13FN4O2
